US04727147
A solution of 31.7 g of (S)-1-(4-methoxybenzyl)-octahydroisoquinolinium acetate in 250 ml of water is brought by addition of concentrated sodium hydroxide solution to pH 12. The free base is extracted twice with 150 ml of diethyl ether each time. Washing of the combined extracts with water, drying over sodium sulfate and removal of the solvent in vacuo leaves 25.0 g (97.3% of theory) of (S)-1-(4-methoxybenzyl)-octahydroisoquinoline.

reactant | (S)-1-(4-methoxybenzyl)-octahydroisoquinolinium acetate | 31.7 g | C(C)(=O)[O-].COC1=CC=C(C[C@@H]2[NH2+]CCC3CCCC=C23)C=C1
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 250 ml | O | H2O
product | (S)-1-(4-methoxybenzyl)-octahydroisoquinoline | 25.0 g, 97.3% | COC1=CC=C(C[C@@H]2NCCC3CCCC=C23)C=C1 | C17H23NO
